US07368474B2
1. b) 4-Hydroxymethyl-N-[2-(tritylsulphanyl)ethyl]benzamide
To a solution of S-trityl cysteamine (1.60 g, 5.00 mmol) and 4-hydroxymethylbenzoic acid pentafluorophenyl ester (MilliGen, 1.51 g, 5.00 mmol) in dichloromethane (40 ml) was added N-methylmorpholine (0.55 ml, 5.0 mmol). The mixture was stirred at room temperature for 36 hrs. Precipitated material was filtered off, washed with dichloromethane and dried to give 1.30 g (57%) of white solid. NMR analysis was in accordance with the structure.

reactant | S-trityl cysteamine | 5.00 mmol, 1.60 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN | C21H21NS
reactant | 4-hydroxymethylbenzoic acid pentafluorophenyl ester | 5.00 mmol, 1.51 g | FC1=C(C(=C(C(=C1OC(C1=CC=C(C=C1)CO)=O)F)F)F)F | C14H7F5O3
reactant | N-methylmorpholine | 5.0 mmol, 0.55 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-Hydroxymethyl-N-[2-(tritylsulphanyl)ethyl]benzamide | 1.30 g, 57% | OCC1=CC=C(C(=O)NCCSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C29H27NO2S
